US07544812B2
2-(4-{3-[1-(4-tert-Butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-vinyl-phenoxy)-2-methyl-propionic acid methyl ester
2-(4-{3-[1-(4-tert-Butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-iodo-phenoxy)-2-methyl-propionic acid methyl ester (0.264 g, 0.435 mmole) and tributyl(vinyl) tin (0.207 g, 0.652 mmole) were mixed in toluene (4.0 mL). After bubbled with nitrogen for 15 minutes, tetrakis(triphenylphosphine) palladium(0) (0.050 g, 0.043 mmole) was added. The reaction was heated at 80° C. overnight. The solvent was removed on rota-vapor, and the crude product was purified by column chromatography (silica gel, gradient elution 0-30% acetone in hexane) to provide a colorless oil (0.158 g, 71%). Mass [EI+] 507 (M+H)+.

reactant | 2-(4-{3-[1-(4-tert-Butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-iodo-phenoxy)-2-methyl-propionic acid methyl ester | 0.435 mmole, 0.264 g | COC(C(C)(C)OC1=C(C=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(C)(C)C)=O)C)I)=O | C29H39IN2O4
reactant | tributyl(vinyl) tin | 0.652 mmole, 0.207 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.043 mmole, 0.050 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(4-{3-[1-(4-tert-Butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-vinyl-phenoxy)-2-methyl-propionic acid methyl ester | 0.158 g, 71% | COC(C(C)(C)OC1=C(C=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(C)(C)C)=O)C)C=C)=O | C31H42N2O4
